US04438270
To a solution of 0.5 g of 2-acetylamino-5-benzyloxycarbonylamino-2-difluoromethylpentanoic acid in 4 ml of dimethylformamide is added 0.27 g of benzylbromide and 0.4 ml of dicyclohexylamine. The reaction mixture is stirred for 12 hours and then the precipitate is filtered off. The filtrate is evaporated under reduced pressure, and the residue is partitioned between ethylacetate and water. The organic phase is washed with aqueous hydrochloric acid, water, 5% sodium bicarbonate, water and brine then dried over magnesium sulfate. The solvent is evaporated and the residue heated in 5 ml of trifluoroacetic acid for 1 hour at room temperature. The excess trifluoroacetic acid is then stripped off under reduced pressure. The residue is suspended in 5 ml of ether and a solution of N-benzyloxycarbonyl-O-ethoxycarbonylalanine (0.4 g) and triethylamine (0.2 g) in 5 ml of ether is added. Stirring is continued overnight at room temperature. The solvent is evaporated. The resulting syrupy residue is dissolved in glacial acetic acid, and the solution hydrogenated over Pd/C 10% (30 mg) for 12 hours. The catalyst is then filtered off. The filtrate is concentrated and the residue is purified by ion exchange chromatography on an Amberlite IR 120 acidic column to give 2-acetylamino-5-(2-aminopropionylamino)-2-difluoromethylpentanoic acid.

reactant | 2-acetylamino-5-benzyloxycarbonylamino-2-difluoromethylpentanoic acid | 0.5 g | C(C)(=O)NC(C(=O)O)(CCCNC(=O)OCC1=CC=CC=C1)C(F)F | C16H20F2N2O5
reactant | benzylbromide | 0.27 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | dicyclohexylamine | 0.4 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 2-acetylamino-5-(2-aminopropionylamino)-2-difluoromethylpentanoic acid | C(C)(=O)NC(C(=O)O)(CCCNC(C(C)N)=O)C(F)F | C11H19F2N3O4
